Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Solu-Medrol / Nsaids
 
Attending: ___.
 
Chief Complaint:
Periorbital Cellulitis
 
Major Surgical or Invasive Procedure:
intravenous antibiotics
 
History of Present Illness:
___ is a ___ year old physician who is followed for a 
monoclonal Ig A happa. She has hypogammaglobulinemia, and 
receives weekly subcutaneous IVIG(Vivaglobin)under the direction 
of Dr. ___. She presented with a two day history of of 
progressive pain and irritation in her left eye. She was 
evaluated by ___ on the day prior to admission, and 
was found to have a mild exudate, erythema, and mild swelling in 
area of left outer canthus.  She received a dose of Doxycycline 
in clinic and tool two doses of Augmentin. Over the subsequent 
24 hours, she developed progressive erythema nad swelling under 
the left eye, progressing to the left cheek. She did not note  
any fever. Her vision was not affected, and she was able to move 
her eye
without any restriction or pain. She does note that there was an 
approximate 6 week time period where she didn't administer IVIG. 
This was resumed 2 weeks ago but hasn't had any since.

ALLERGIES: NSAIDS AND SOLUMEDROL

MEDICATIONS: Reviewed

PHYSICAL EXAMINATION:
GENERAL: ___ year old female sitting at edge of exam table in 
some
mild distress
HEENT: Left eye with conjunctival injection and mild drainage 
and
exudate noted on exam. ? of hordelodeum. Progression of edema 
and
erythema. Still most promient on lateral third of the left lower
eyelid. Also has some mild erythema and edema on left cheek. The
area around the left aspect of outer eye is extremely tenderness
to palpation. There is no pain with eye movement. OD is
unremarkable.

LABORATORY DATA:

WBC 5.6, Hgb 13.2, Plt 226, normal diff BUN/creatinine ___,
alk phos 130. Electrolytes and LFTs are otherwise within normal
limits.
   

ASSESSMENT AND PLAN

___ has what is felt to most likely be periorbital cellulitis
which is not responding to oral antibiotics and now with
worsening symptoms. Had a low grade temp of 99.1 today in 
clinic.
She will receive IV Ceftriaxone and Vancomycin. We will also 
give
her 200mg/kg of IVIG and would recommend that she resume her sc
weekly IVIG which she administers at home. Her CBC and
differential are normal. We sent serum immunoglobulins which are
pending. Her last IgG level in ___ was 702. Her IgA has been
stable and at that time was 524. Would also recommend adding
topical erthyromycin ointment. She will be observed inhospital
overnight, and if her symptoms improve, she will be discharged 
in
the am to complete a course of oral antibiotics.

We also will send bacterial and viral cultures of the exudate
today.

The patient was seen and examined by Dr. ___ and
___ in agreement with the above plan.

 
Past Medical History:
Monoclonal IgA kappa
Hypogammaglobulinemia
hypertension
narcolepsy
knee surgery with synovectomy in ___
 
Social History:
___
Family History:
She does not have a family history of immune deficiency or 
hematologic malignancy.
 
Physical Exam:
Temp 99.1
Conjunctival injection with mild drainage. Erythema and swelling
of the lateral third of the left lower eyelid, and mild erythema
and swelling over the left cheek.
No pain with eye movement

 
Pertinent Results:
WBC 5.6, Hgb 13.2, Plt 226, normal diff BUN/creatinine ___,
alk phos 130. Electrolytes and LFTs are otherwise within normal
limits
 
Brief Hospital Course:
Dr. ___ two doses of Ceftiaxone and one dose of 
Vancomycin intravenously. She also received 20 grams of IVIG, 
given her history of low IgG. She developed itching and mild 
facial erythema after the vancomycin, which improved with 
benadryl. 

The following morning, the erythema and swelling around her eye 
and check was much improved. She was discharged home to complete 
a two week course of oral antibiotics with Augmentin and 
Bactrim. This was discussed with Dr. ___ who recommended 
bacrtim in addition to Augmentin for better gram positive 
coverage.
 
Discharge Medications:
Augmentin
Bactrim
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___ cellulitis
 
Discharge Condition:
improved
 
Discharge Instructions:
Complete a two week course of oral augmentin and bactrim.
 
Followup Instructions:
___